US06897225B1
6-(4-Bromobenzyl)-8-(3,5-dichlorophenyl)-1,2,8-triazabicyclo[4.3.0]nonane-7,9-dione
2-(tert-Butoxycarbonyl)-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,2,8-triazabicyclo[4.3.0]nonane-7,9-dione (260 mg) was dissolved in TFA/CH2Cl2 (50%, 5 mL) and stirred at room temperature for 3 hours. The reaction mixture was then concentrated in vacuo, redissolved in CH2Cl2 (5 mL) and DIEA (0.22 mL) was added. The mixture was stirred at room temperature for 30 minutes and was shaken with CH2Cl2/H2O. The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The combined organic layer was dried over MgSO4, filtered and concentrated. The residue was recrystallized from EtOAc/hexane to give the titled compound (180 mg). MS (m/z) 470 (M+).

reactant | 2-(tert-Butoxycarbonyl)-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,2,8-triazabicyclo[4.3.0]nonane-7,9-dione | 260 mg | C(C)(C)(C)OC(=O)N1N2C(N(C(C2(CCC1)CC1=CC=C(C=C1)Br)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C24H24BrCl2N3O4
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 6-(4-Bromobenzyl)-8-(3,5-dichlorophenyl)-1,2,8-triazabicyclo[4.3.0]nonane-7,9-dione | 180 mg | BrC1=CC=C(CC23CCCNN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H16BrCl2N3O2
